US07572809B2
The mixture of 5-Hydroxy-6-methoxy-indan-1-one (2.1 g), K2CO3 (3.3 g), acetone (30 ml) and benzyl bromide was heated to reflux for 5 hours. The mixture was filtered and the filtrate was evaporated to oil. The oil was treated with diethyl ether (50 ml) and the solid was collected to give 5-Benzyloxy-6-methoxy-indan-1-one (3 g). LC-MS: m/e 269 (MH+).

reactant | 5-Hydroxy-6-methoxy-indan-1-one | 2.1 g | OC=1C=C2CCC(C2=CC1OC)=O | C10H10O3
reactant | K2CO3 | 3.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 5-Benzyloxy-6-methoxy-indan-1-one | 3 g | C(C1=CC=CC=C1)OC=1C=C2CCC(C2=CC1OC)=O | C17H16O3
